US07169778B2
1. 5-Amino-4-(methylamino)-2-[[4-(morpholin-4-yl)phenyl]amino]-pyrimidine
Hydrogenation of 4-(methylamino)-2-[(4-morpholinophenyl)amino]-5-nitropyrimidine (from Example 2(1) above) over palladium on charcoal (Pd/C) gave the title compound as a solid.

reactant | 4-(methylamino)-2-[(4-morpholinophenyl)amino]-5-nitropyrimidine | CNC1=NC(=NC=C1[N+](=O)[O-])NC1=CC=C(C=C1)N1CCOCC1 | C15H18N6O3
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-Amino-4-(methylamino)-2-[[4-(morpholin-4-yl)phenyl]amino]-pyrimidine | NC=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCOCC1)NC | C15H20N6O
